US06444709B1
(b) 6-Ethynylsulphonyl-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene
In a manner similar to that of Example 5(b), by reaction at −78° C. of 6-(2,2-dichlorovinylsulphonyl)-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene (8 g, 24.3 mmol) in 200 ml of THF with 2.5 M n-butyllithium/hexane (21.4 ml, 53.5 mmol), 2.08 g (33%) of the expected alkyne are obtained in the form of a yellow solid.

reactant | 6-(2,2-dichlorovinylsulphonyl)-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene | 24.3 mmol, 8 g | ClC(=CS(=O)(=O)C=1C=C2C(CCC(C2=CC1C)(C)C)(C)C)Cl | C17H22Cl2O2S
reactant | n-butyllithium hexane | 53.5 mmol, 2.5 M, 21.4 ml | C(CCC)[Li].CCCCCC
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 6-Ethynylsulphonyl-1,1,4,4,7-pentamethyl-1,2,3,4-tetrahydronaphthalene | C(#C)S(=O)(=O)C=1C=C2C(CCC(C2=CC1C)(C)C)(C)C | C17H22O2S
